US08530470B2
To a stirred suspension of 3-acetyl-5-bromo-4-hydroxybenzoic acid (240 g, 926 mmol) in MeOH (2 L) was added dropwise sulfurous dichloride (68 mL, 926.5 mmol) under nitrogen and the mixture was heated at 80° C. for 3 h. The reaction mixture was cooled to room temperature concentrated, diluted with DCM. The organic layer was washed with brine, dried over MgSO4, filtered and concentrated to afford a crude compound, which was purified on silica, eluting with 70% of DCM in petroleum ether. The solvents were evaporated to dryness to afford methyl 3-acetyl-5-bromo-4-hydroxybenzoate (108 g, 42.7%) as a white powder. Mass Spectrum: m/z [M−H]−=229.

reactant | 3-acetyl-5-bromo-4-hydroxybenzoic acid | 926 mmol, 240 g | C(C)(=O)C=1C=C(C(=O)O)C=C(C1O)Br | C9H7BrO4
reactant | sulfurous dichloride | 926.5 mmol, 68 mL | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 2 L | CO | CH4O
product | methyl 3-acetyl-5-bromo-4-hydroxybenzoate | 108 g, 42.7% | C(C)(=O)C=1C=C(C(=O)OC)C=C(C1O)Br | C10H9BrO4
